US07186729B2
4-(4-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidine-4-carboxylic acid methyl ester
To a suspension of 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester in acetonitrile/water (4/1) was added potassium carbonate (221 mg, 1.6 mmol), followed by 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (150 mg, 0.4 mmol). The reaction mixture was stirred at room temperature for 48 hours and then concentrated in vacuo. The resulting residue was treated with water and extracted with ethyl acetate. Solvent was evaporate from the combined dried (MgSO4) organic extracts. Purification on silica gel chromatography using dichloromethane-methanol (9.6:0.4) afforded the title compound.

reactant | 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCNCC1)C1=CC=C(C=C1)Cl | C13H16ClNO2
reactant | potassium carbonate | 1.6 mmol, 221 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.4 mmol, 150 mg | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 4-(4-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C2=CC=C(C=C2)Cl | C32H35ClN2O4
